US03953596
A mixture of 90 grams of nicotinic acid and 180 ml of thionyl chloride were heated at 55°-65° C. for 3.5 hours. The excess thionyl chloride was removed in vacuum and nicotinoyl chloride-hydrochloride was obtained

reactant | nicotinic acid | 90 grams | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | thionyl chloride | 180 ml | S(=O)(Cl)Cl | Cl2OS
product | nicotinoyl chloride-hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl | InChI=1S/C6H4ClNO.ClH/c7-6(9)5-2-1-3-8-4-5;/h1-4H;1H
